US07250418B2
Preparation of N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl]-3,6-diethyl-5-(6-methoxy-2-methylpyridin-3-yl)pyrazin-2-amine
Following the procedure for the preparation of N-[(3R,4S)4-ethoxy-1-pyrimidin-2-ylpyrrolidin-3-yl]-3,6-diethyl-5-(6-methoxy-2-methylpyridin-3-yl)pyrazin-2-amine but substituting 2-bromo-1,3-thiazole provided the title compound as an amporphous solid:

reactant | N-[(3R,4S)4-ethoxy-1-pyrimidin-2-ylpyrrolidin-3-yl]-3,6-diethyl-5-(6-methoxy-2-methylpyridin-3-yl)pyrazin-2-amine | C(C)O[C@@H]1[C@@H](CN(C1)C1=NC=CC=N1)NC1=NC(=C(N=C1CC)C=1C(=NC(=CC1)OC)C)CC | C25H33N7O2
reactant | 2-bromo-1,3-thiazole | BrC=1SC=CN1 | C3H2BrNS
product | N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl]-3,6-diethyl-5-(6-methoxy-2-methylpyridin-3-yl)pyrazin-2-amine | C(C)O[C@@H]1[C@@H](CN(C1)C=1SC=CN1)NC1=NC(=C(N=C1CC)C=1C(=NC(=CC1)OC)C)CC | C24H32N6O2S
